US05948775
2-Amino-4-methoxybenzoic acid
A solution of 27.4 g (0.165 mol) of 2-amino-4-methoxybenzamide in 500 mL of 1N sodium hydroxide was stirred and heated under reflux for 18 hours. After the reaction mixture had cooled to room temperature the solution was brought to pH 6-7 with 0.5N HCl. A white precipitate formed which was collected by vacuum filtration. The crystals were rinsed with water and dried overnight at 100° C. The product amounted to 23.9 g. An analytical sample (mp 176-178° C.) was obtained by recrystallization from ethyl acetate.

reactant | 2-amino-4-methoxybenzamide | 0.165 mol, 27.4 g | NC1=C(C(=O)N)C=CC(=C1)OC | C8H10N2O2
reactant | HCl | 0.5N | Cl | ClH
reactant | sodium hydroxide | 1N, 500 mL | [OH-].[Na+]
product | 2-Amino-4-methoxybenzoic acid | NC1=C(C(=O)O)C=CC(=C1)OC | C8H9NO3
